US04548944
2-Guanidino-4-(2-nitro-phenyl)-thiazole
A solution of 16.5 gm of 2-nitro-phenacyl bromide and 7.98 gm of amidinothiourea in 70 ml of dimethylformamide was stirred at room temperature for 16 hours, and then poured into 350 ml of water. The solution was made alkaline with 10% sodium hydroxide, and the solid which separated out after cooling was filtered, washed with water and dried, yielding 16.9 gm of the title compound, m.p. 176°-178° C.

reactant | 2-nitro-phenacyl bromide | 16.5 gm | [N+](=O)([O-])C1=C(C(CBr)=O)C=CC=C1 | C8H6BrNO3
reactant | amidinothiourea | 7.98 gm | C(N)(=N)NC(=S)N | C2H6N4S
reactant | water | 350 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-Guanidino-4-(2-nitro-phenyl)-thiazole | 16.9 gm | N(C(=N)N)C=1SC=C(N1)C1=C(C=CC=C1)[N+](=O)[O-] | C10H9N5O2S
